US05334740
Raney nickel W-2 (NDHF-90: a trademark for a product of Kawaken Fine Chemical K.K.; 550 mg) was subjected to decantation once with water and once with methanol. Forty eight milligrams of boric acid were added. The atmosphere was replaced with argon and then with hydrogen. Methanol (1.5 ml) and water (0.3 ml) were added and boric acid was dissolved therein. Then, a solution of 80 mg of 4,5-(dimethylmethylenedioxy)-6-(methoxymethoxy)-3,3a,4,5,6,7-hexahydro-2,1-benzoisooxazole in 3.5 ml of methanol was added at room temperature, and the mixture was stirred for 5 hours. The reaction mixture was diluted with diethyl ether and filtered through florisel. The filtrate was washed with a saturated sodium chloride aqueous solution and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the obtained residue was purified by silica gel column chromatography to afford 49 mg of 2-hydroxymethyl-3,4-(dimethylmethylenedioxy)-5-(methoxymethoxy)cyclohexanone having the following properties (yield 61%).

reactant | water | O | H2O
reactant | boric acid | Forty eight milligrams | B(O)(O)O | BH3O3
reactant | hydrogen | [H][H] | H2
reactant | water | 0.3 ml | O | H2O
reactant | 4,5-(dimethylmethylenedioxy)-6-(methoxymethoxy)-3,3a,4,5,6,7-hexahydro-2,1-benzoisooxazole | 80 mg | CC1(OC2C(C(CC=3C2CON3)OCOC)O1)C | C12H19NO5
catalyst | Raney nickel | [Ni] | Ni
solvent | methanol | 3.5 ml | CO | CH4O
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | Methanol | 1.5 ml | CO | CH4O
product | 2-hydroxymethyl-3,4-(dimethylmethylenedioxy)-5-(methoxymethoxy)cyclohexanone | 49 mg, yield 61% | OCC1C(CC(C2C1OC(O2)(C)C)OCOC)=O | C12H20O6
